US04197241
Hexahydro-3-(3-methoxyphenyl)-2H-azepin-2-one (2.2 g) in dry toluene (40 ml) was added dropwise to a stirred suspension of sodium hydride (0.62 g, 0.015 mole of 50% dispension in oil, pre-washed with dry light petroleum (b.p. 40°-60°). After stirring and heating at 60° for 1 hour the reaction was cooled to 5° C. and methyl iodide (1.9 ml, 2.5 g, 0.02 mole) was added rapidly. After stirring at ambient temperature for 20 hours acetic acid and water were added. The aqueous layer was separated and washed with toluene. Toluene extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated to an oil. Oil was recrystallised from ethylacetate light petroleum (b.p. 60°-80°) affording 1.95 g (83%) of hexahydro-(3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one, in several crops, m.p. 74°-5° C.

reactant | Hexahydro-3-(3-methoxyphenyl)-2H-azepin-2-one | 2.2 g | COC=1C=C(C=CC1)C1C(NCCCC1)=O | C13H17NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.02 mole, 1.9 ml, 2.5 g | CI | CH3I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | COC=1C=C(C=CC1)C1C(N(C=CC=C1)C)=O | C14H15NO2
